US04051248
A. 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide
A mixture of 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotonitrile (5.0 g) and 90% sulfuric acid (60.0 g) is heated for 10 minutes at 70° C. The mixture is then stirred at room temperature for an additional hour. The reaction mixture is poured into ice-water, basified with ammonium hydroxide, and extracted with chloroform. Concentration of the dried chloroform solution followed by trituration with benzene yields the title compound.

reactant | 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotonitrile | 5.0 g | C1=C(CCC2=CC=CC=C12)CN1CCC(C#N)(CC1)NC1=CC=CC=C1 | C23H25N3
reactant | sulfuric acid | 60.0 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide | C1=C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H27N3O
